US07226951B2
[4-(5-tert-Butyl-4-isopropoxy-2-methyl-3-prop-2-ynyl-phenylethynyl)-phenyl]-acetic acid (Compound 47)
A solution of {4-[5-tert-butyl-4-isopropoxy-2-methyl-3-(3-trimethylsilanyl-prop-2-ynyl)-phenylethynyl]-phenyl}-acetic acid methyl ester (Intermediate, 149, 0.038 g, 0.078 mmol) in methanol (1.5 mL) and tetrahydrofuran (1.5 mL) was treated with 2M lithium hydroxide (1 mL, 2 mmol) and the resulting reaction mixture was stirred at ambient temperature for 1.5 h. The volatiles were evaporated in vacuo to a residue that was neutralized with saturated aqueous ammonium chloride solution and extracted with ethyl acetate. The organic phase was washed with water and brine, and dried over anhydrous magnesium sulfate, filtered and evaporated in vacuo to afford the title product (0.032 g, 98%). 1H NMR (300 MHz, CDCl3): δ 7.50 (d, 2H, J=8.1 Hz), 7.43 (s, 1H), 7.27 (d, 2H, J=8.1 Hz), 4.82 (heptet, 1H, J=6.4 Hz), 3.67 (s, 2H), 3.48 (d, 2H, J=2.5 Hz), 2.58 (s, 3H), 1.39 (s, 9H), 1.28 (d, 6H, J=6.4 Hz).

reactant | {4-[5-tert-butyl-4-isopropoxy-2-methyl-3-(3-trimethylsilanyl-prop-2-ynyl)-phenylethynyl]-phenyl}-acetic acid methyl ester | 0.078 mmol, 0.038 g | COC(CC1=CC=C(C=C1)C#CC1=C(C(=C(C(=C1)C(C)(C)C)OC(C)C)CC#C[Si](C)(C)C)C)=O | C31H40O3Si
reactant | lithium hydroxide | 2 mmol, 2M, 1 mL | [OH-].[Li+]
solvent | methanol | 1.5 mL | CO | CH4O
solvent | tetrahydrofuran | 1.5 mL | O1CCCC1 | C4H8O
product | [4-(5-tert-Butyl-4-isopropoxy-2-methyl-3-prop-2-ynyl-phenylethynyl)-phenyl]-acetic acid | 0.032 g, 98% | C(C)(C)(C)C=1C(=C(C(=C(C1)C#CC1=CC=C(C=C1)CC(=O)O)C)CC#C)OC(C)C | C27H30O3
